US09388144B2
A solution of (S)-di-tert-butyl 2-(3-((S)-6-amino-1-(tert-butoxy)-1-oxohexan-2-yl)ureido)pentanedioate (0.742 g, 1.52 mmol), 6-(((1-(2-(bis(2-(tert-butoxy)-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)methyl)(4-(prop-2-yn-1-yloxy)benzyl)amino)hexanoic acid (0.244 g, 0.38 mmol), EDCI (0.290 g, 1.52 mmol), HOBt (0.051 g, 0.38 mmol) and DIPEA (0.40 mL) in DCE (5.0 mL) was stirred at room temperature for 4 h. The solvent was evaporated to give a residue, which was purified by Biotage SP4 eluting with DCM/MeOH to give (14S,18S)-tri-tert-butyl 1-(1-(2-(bis(2-(tert-butoxy)-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)-8,16-dioxo-2-(4-(prop-2-yn-1-yloxy)benzyl)-2,9,15,17-tetraazaicosane-14,18,20-tricarboxylate (0.3237 g, 77%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 7.64 (t, J=5.4 Hz, 1H), 7.17 (d, J=8.4 Hz, 2H), 6.93 (s, 1H), 6.87 (d, J=8.8 Hz, 2H), 6.74 (s, 1H), 6.26 (d, J=8.4 Hz, 1H), 6.22 (d, J=8.0 Hz, 1H), 5.02 (s, 2H), 4.72 (d, J=2.0 Hz, 2H), 4.24 (s, 2H), 4.03-3.89 (m, 4H), 3.51 (t, J=2.0 Hz, 1H), 3.48 (s, 2H), 3.39 (s, 2H), 2.95 (q, J=6.3 Hz, 2H), 2.22-2.15 (m, 4H), 1.94 (t, J=7.4 Hz, 2H), 1.85-1.04 (m, 34H); MS (ESI), 1111.6 (M+H)+.

reactant | (S)-di-tert-butyl 2-(3-((S)-6-amino-1-(tert-butoxy)-1-oxohexan-2-yl)ureido)pentanedioate | 1.52 mmol, 0.742 g | NCCCC[C@@H](C(=O)OC(C)(C)C)NC(N[C@H](C(=O)OC(C)(C)C)CCC(=O)OC(C)(C)C)=O | C24H45N3O7
reactant | 6-(((1-(2-(bis(2-(tert-butoxy)-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)methyl)(4-(prop-2-yn-1-yloxy)benzyl)amino)hexanoic acid | 0.38 mmol, 0.244 g | C(C)(C)(C)OC(CN(C(CN1C(=NC=C1)CN(CCCCCC(=O)O)CC1=CC=C(C=C1)OCC#C)=O)CC(OC(C)(C)C)=O)=O | C34H48N4O8
reactant | EDCI | 1.52 mmol, 0.290 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.38 mmol, 0.051 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.40 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCE | 5.0 mL | ClCCCl | C2H4Cl2
product | (14S,18S)-tri-tert-butyl 1-(1-(2-(bis(2-(tert-butoxy)-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)-8,16-dioxo-2-(4-(prop-2-yn-1-yloxy)benzyl)-2,9,15,17-tetraazaicosane-14,18,20-tricarboxylate | 0.3237 g, 77% | C(C)(C)(C)OC(CN(C(CN1C(=NC=C1)CN(CCCCCC(NCCCC[C@H](NC(N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C)=O)CC1=CC=C(C=C1)OCC#C)=O)CC(OC(C)(C)C)=O)=O | C58H91N7O14
